US04053605
2-(3-tert. Butylamino-2-acetoxypropoxy)-3-cyanopyridine
Isopropyl or sec. butyl amino analogues of the compounds of the above examples are prepared by substituting suitable oxazolidines e.g. 2-phenyl-3-isopropyl-5-hydroxymethyloxazolidine, (S)-2-methyl-3-sec. butyl-5-hydroxymethyloxazolidine, 3-isopropyl-5-hydroxymethyloxazolidine for the (S)-2-phenyl-3-tert. butyl-5-hydroxymethyloxazolidine reactant.

reactant | 2-phenyl-3-isopropyl-5-hydroxymethyloxazolidine | C1(=CC=CC=C1)C1OC(CN1C(C)C)CO | C13H19NO2
reactant | (S)-2-methyl-3-sec. butyl-5-hydroxymethyloxazolidine | C[C@@H]1OC(CN1C(C)CC)CO | C9H19NO2
reactant | 3-isopropyl-5-hydroxymethyloxazolidine | C(C)(C)N1COC(C1)CO | C7H15NO2
reactant | (S)-2-phenyl-3-tert. butyl-5-hydroxymethyloxazolidine | C1(=CC=CC=C1)[C@@H]1OC(CN1C(C)(C)C)CO | C14H21NO2
product | 2-(3-tert. Butylamino-2-acetoxypropoxy)-3-cyanopyridine | C(C)(C)(C)NCC(COC1=NC=CC=C1C#N)OC(C)=O | C15H21N3O3
